US07498433B2
Preparation of 2,4-bis(4-methyl-1-piperazinyl)-3-propylidene-3H-[1,5]benzodiazepine (III)
To a suspension of 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol (19.93 g, 50 mmol) and triethylamine (45 ml, 325 mmol) in dichloromethane (100 ml) under constant flow of argon, at 0° C., a solution of trifluoroacetic anhydride (21 ml, 150 mmol) in dichloromethane (50 ml) was added dropwise. The reaction mixture was stirred for another hour at 0° C. The solution was allowed to warm to room temperature. Methanol (66 ml) and tetrabutylammonium bromide (1.61 g, 5 mmol) were added successively. While strongly agitated NaOH (1 M, 660 ml) was added dropwise. Two phase system was agitated for two hours. The phases were separated and the water phase was extracted with dichloromethane (2×100 ml). The organic phase was dried over anhydrous Na2SO4 and the solvent was evaporated at reduced pressure. The crude product was suspended in isopropyl ether (150 ml) and filtered off the filtrate was evaporated at reduced pressure to give 14.44 g (76%) of the title compound as a brown resin.

reactant | 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol | 50 mmol, 19.93 g | CN1CCN(CC1)C=1C(C(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C)C(CC)O | C22H34N6O
reactant | triethylamine | 325 mmol, 45 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 150 mmol, 21 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaOH | 1 M, 660 ml | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 5 mmol, 1.61 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Methanol | 66 ml | CO | CH4O
product | 2,4-bis(4-methyl-1-piperazinyl)-3-propylidene-3H-[1,5]benzodiazepine | 14.44 g, 76% | CN1CCN(CC1)C=1C(C(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C)=CCC | C22H32N6
